US07232820B2
A mixture of pentan-3-one (0.3 mmol), 2-Amino-pentanoic acid [5-(1,1-dimethyl-butyl)-[1,3,4]thiadiazol-2-yl]-amide (0.3 mmol), sodium triacetoxy borohydride (0.3 mmol) and acetic acid (0.3 mmol) in 1.0 mL of anhydrous dichloromethane and 1 ml DMF was stirred at room temperature (rt) overnight. The reaction was not complete. The mixture was treated with NaBH3CN (40 mg) and heated at 45° C. for 4 hr. All starting material was consumed. The crude solution was diluted with dilute NaOH and extracted with methylene chloride. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude products were purified through Shimadzu HPLC to give 2-(1-Ethyl-propylamino)-pentanoic acid [5-(1,1-dimethyl-butyl)-[1,3,4]thiadiazol-2-yl]-amide. LC-MS (retention time, M+1): 1.70 min, 355.3 [M+1]

reactant | pentan-3-one | 0.3 mmol | CCC(CC)=O | C5H10O
reactant | 2-Amino-pentanoic acid [5-(1,1-dimethyl-butyl)-[1,3,4]thiadiazol-2-yl]-amide | 0.3 mmol | CC(CCC)(C)C1=NN=C(S1)NC(C(CCC)N)=O | C13H24N4OS
reactant | sodium triacetoxy borohydride | 0.3 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.3 mmol | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 40 mg | [BH3-]C#N.[Na+]
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-(1-Ethyl-propylamino)-pentanoic acid [5-(1,1-dimethyl-butyl)-[1,3,4]thiadiazol-2-yl]-amide | CC(CCC)(C)C1=NN=C(S1)NC(C(CCC)NC(CC)CC)=O | C18H34N4OS
